US04762942
2-Bromo-2-phenylethanol
To a stirred solution of 25 g of α-bromphenylacetic acid in 100 ml of dry tetrahydrofuran was added 151 ml of 1.0M diborane in tetrahydrofuran dropwise at 5° C. under argon over 30 minutes. This mixture was stirred overnight at room temperature, then cooled to 0° C. and 130 ml of tetrahydrofuran:water (1:1) was added dropwise. The mixture was then saturated with potassium carbonate and the tetrahydrofuran removed. The aqueous remainder was extracted three times with ether. The extracts were combined and dried. The residue was triturated with hexane and the solid collected giving the desired compound as white needles, mp 38°-39° C.

reactant | α-bromphenylacetic acid | 25 g | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | diborane | 1.0M, 151 ml | B#B | B2
reactant | tetrahydrofuran water | 130 ml | O1CCCC1.O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Bromo-2-phenylethanol | BrC(CO)C1=CC=CC=C1 | C8H9BrO
